US09211249B2
Tyrosine isopropyl ester.
HCl (70 g) and tyrosine (7 g) were dissolved in water (1 L). Caffeine (50 g), ethanol (100 ml) and menthol (20 g) were added into the mixture and the mixture was stirred for a few minutes. The mixture was filled into either spray bottles or roll-on bottles.

reactant | HCl | 70 g | Cl | ClH
reactant | tyrosine | 7 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Caffeine | 50 g | N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | C8H10N4O2
reactant | menthol | 20 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
solvent | water | 1 L | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Tyrosine isopropyl ester | C(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C12H17NO3
